### PR TITLE
feat: more simp lemmas for `Real.toSurreal`

### PR DESCRIPTION
**Pull request by vihdzp**
I use these in a branch of mine.

### CODE REVIEW

File: CombinatorialGames/Surreal/Real.lean [hunk 1]
```diff
@@ -388,12 +388,25 @@ theorem toSurreal_ratCast (q : ℚ) : toSurreal q = q := by
...
+  Surreal.mk_eq (toIGame_sub_equiv x y)
+
+@[simp]
+theorem toSurreal_max (x y : ℝ) : max x y = max (toSurreal x) (toSurreal y) := by
+  have := le_total x y
+  aesop
+
+@[simp, norm_cast]
+theorem toSurreal_abs (x : ℝ) : |x| = |toSurreal x| := by
+  simp [abs]
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Real.lean]: Am I missing something here? The last two simp directions go against `toSurreal_add` and `toSurreal_sub`.

```suggestion
@[simp]
theorem toSurreal_max (x y : ℝ) : max (toSurreal x) (toSurreal y) = max x y := by
  have := le_total x y
  aesop

@[simp, norm_cast]
theorem toSurreal_abs (x : ℝ) : |toSurreal x| = |x| := by
  simp [abs]
```

**Review by tristan-f-r — CHANGES_REQUESTED** [review]
?

File: CombinatorialGames/Surreal/Real.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Real.lean]: The lemma `toSurreal_max` actually reads
```
toSurreal (max x y) = max (toSurreal x) (toSurreal y)
```
So it does match `toSurreal_add` and all the others. I'm just removing the first `toSurreal` since it can be inferred. If it makes the lemma confusing to read I can add it back.
